US05214037
To a solution of 4-chloro-2-propylideneacetoacetic acid methyl ester (818 mg : 4.29 mMol.) in dimethylformamide (2.1 ml) is added sodium bromide (957 mg : 9.3 mMol.), and the mixture is stirred at 22° C. for 2 hours to give a solution of 4-bromo-2-propylideneacetoacetic acid methyl ester NMR δ (CDCl3) ppm:1.15(t. J=7.5Hz. 3H). Z.50(q, J=7.5Hz, 3H), 2.53(q, J=7.5Hz. 2H), 3.82(s, 3H), 3.90(s, 3H), 4.15(s, 2H). 4.Z2 (s, 2H), 7.10(t. J=7.5Hz, 1H), 7.1Z(t. J=7.5Hz. 1H)⟧ This solution is diluted with dichloromethane (0.7 ml), mixed with a solution of thiourea (354 mg : 4.65 mMol.) in dimethylformamide (1.4 ml), and stirred at -15° C. to 30° C. for 25 minutes. The reaction mixture is washed with aqueous sodium hydroxide and brine, concentrated at less than 15° C. under reduced pressure, mixed with acetone (1.8 ml), and neutralized with 35% hydrochloric acid. The separating crystals are washed with acetone and dried over to give (Z)-2-(2-aminothiazol-4-yl)-2-pentenoic acid methyl ester hydrochloride (452 mg). Yield: 43%. mp. 79 to 80° C. (decomposition). Elemental analysis gives values corresponding to C9H12N2O2S.HCl.H2O.

reactant | 4-chloro-2-propylideneacetoacetic acid methyl ester | 4.29 mMol, 818 mg | COC(C(C(=O)CCl)=CCC)=O | C8H11ClO3
reactant | sodium bromide | 9.3 mMol, 957 mg | [Br-].[Na+]
solvent | dimethylformamide | 2.1 ml | CN(C=O)C | C3H7NO
product | 4-bromo-2-propylideneacetoacetic acid methyl ester | COC(C(C(=O)CBr)=CCC)=O | C8H11BrO3
